US08071592B2
4-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one Hydrochloride
A mixture of 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one dihydrochloride (42 mg, 0.112 mmol) in chloroform (2 ml) and MeOH (0.1 ml) was treated with triethylamine (50 μl, 0.358 mmol) and stirred for 0.25 h before addition of 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (18 mg, 0.112 mmol). The reaction was stirred for 0.5 h before addition of NaBH(OAc)3 (71 mg, 0.336 mmol). The reaction was stirred for 1 h before addition of sat. aq NaHCO3 (10 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (26 mg, 51%).

reactant | 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one dihydrochloride | 0.112 mmol, 42 mg | Cl.Cl.NC1CCN(CC1)CCN1C(N=NC2=C1C=C(C=C2)OC)=O
reactant | triethylamine | 0.358 mmol, 50 μl | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | NaBH(OAc)3 | 0.336 mmol, 71 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.1 ml | CO | CH4O
product | 4-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one Hydrochloride | 26 mg, 51% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(N=NC1=C2C=C(C=C1)OC)=O | InChI=1S/C23H28N6O4.ClH/c1-31-18-2-3-19-20(13-18)29(23(30)27-26-19)9-8-28-6-4-16(5-7-28)24-14-17-12-21-22(15-25-17)33-11-10-32-21;/h2-3,12-13,15-16,24H,4-11,14H2,1H3;1H
